US09120749B2
{4-[trans-4-Aminocyclohexylamino]-6-(1H-benzo[d]imidazol-5-yl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[6-(1H-benzo[d]imidazol-5-yl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate (45.3 mg, 0.086 mmol) was reacted with TFA (2 mL) to afford the desired product (21.3 mg, 58%) as an off-white solid: 1H NMR (500 MHz, CDCl3) δ 9.16 (s, 1H), 8.48 (s, 1H), 8.27 (s, 1H), 8.12 (d, J=8.7 Hz, 1H), 7.99-7.93 (m, 2H), 7.74 (d, J=8.4 Hz, 1H), 7.67 (d, J=8.4 Hz, 1H), 4.29 (s, 1H), 3.17 (s, 1H), 2.93-2.78 (m, 1H), 2.36 (d, J=11.1 Hz, 2H), 2.15 (d, J=11.2 Hz, 2H), 1.72-1.53 (m, 4H), 1.23-1.17 (m, 2H), 1.14-1.05 (m, 2H); ESI MS m/z 426 [C26H27N5O+H]+; HPLC 96.0% (AUC), tR=8.89 min.

reactant | tert-butyl trans-4-[6-(1H-benzo[d]imidazol-5-yl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.086 mmol, 45.3 mg | N1C=NC2=C1C=CC(=C2)C=2C=C1C(=C(C=NC1=CC2)C(=O)C2CC2)N[C@@H]2CC[C@H](CC2)NC(OC(C)(C)C)=O | C31H35N5O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-Aminocyclohexylamino]-6-(1H-benzo[d]imidazol-5-yl)quinolin-3-yl}(cyclopropyl)methanone | 21.3 mg, 58% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC2=C(NC=N2)C=C1)C(=O)C1CC1 | C26H27N5O
